US07951819B2
4-Fluoro-N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-3-(trifluoromethoxy)benzamide (CJS 3696)
Method H was used with 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one and 4-fluoro-3-(trifluoromethoxy)benzoyl chloride to afford the title compound as a brown solid (25 mg, 43%). 1H-NMR (δ, ppm, DMSO-d6): 6.49 (d, 1H, HPy,5, J=6.0 Hz), 6.93 (d, 1H, Harom, J=8.0 Hz), 7.44 (t, 1H, Harom, J=8.0 Hz), 7.59 (s, 1H, Harom), 7.63 (d, 1H, Harom, J=9.0 Hz), 7.70 (t, 1H, Harom, J=9.0 Hz), 7.81 (d, 1H, HPy,6, J=6.0 Hz), 8-06-8.13 (m, 2H, Harom), 10.47 (s, 1H, NHamide), 11.20 (s, 1H, NHPy3), 11.39 (s, 1H, NHPy2).

reactant | 7-(3-aminophenoxy)-1H-imidazo[4,5-b]pyridin-2(3H)-one | NC=1C=C(OC2=C3C(=NC=C2)NC(N3)=O)C=CC1 | C12H10N4O2
reactant | 4-fluoro-3-(trifluoromethoxy)benzoyl chloride | FC1=C(C=C(C(=O)Cl)C=C1)OC(F)(F)F | C8H3ClF4O2
product | 4-Fluoro-N-(3-(2-oxo-2,3-dihydro-1H-imidazo[4,5-b]pyridin-7-yloxy)phenyl)-3-(trifluoromethoxy)benzamide | 25 mg, 43% | FC1=C(C=C(C(=O)NC2=CC(=CC=C2)OC2=C3C(=NC=C2)NC(N3)=O)C=C1)OC(F)(F)F | C20H12F4N4O4
